US09056874B2
3,4-Diamino-2-methylbenzonitrile
To a solution of 3-amino-2-methyl-4-nitrobenzonitrile (250 mg, 1.41 mmol) in methanol (15 mL), palladium-activated carbon ethylene diamine complex (255 mg, 3.5%-6.5% Pd, 0.071 mmol) was added. The reaction was stirred at rt under hydrogen atmosphere for 2 hr. The catalyst was removed by filtration through Celite® pad. The Celite® pad was washed with MeOH. The collected filtrate was concentrated to give the title compound. MS (ESI+) m/z 148.0 (M+H).

reactant | 3-amino-2-methyl-4-nitrobenzonitrile | 1.41 mmol, 250 mg | NC=1C(=C(C#N)C=CC1[N+](=O)[O-])C | C8H7N3O2
solvent | methanol | 15 mL | CO | CH4O
product | 3,4-Diamino-2-methylbenzonitrile | NC=1C(=C(C#N)C=CC1N)C | C8H9N3
